US07700641B2
B. Synthesis of 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1D, and making non-critical variations to replace 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 4-bromo-3hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (95%) as a cream solid: MS (ES+) m/z 348.5 (M+1), 346.3 (M+1).

reactant | 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)(C1=CC2=C(OCO2)C=C1O)O | C20H20BrNO5
reactant | 4-bromo-3hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(NC2=CC=C1)=O)(C1=CC2=C(OCO2)C=C1O)O | C15H10BrNO5
product | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(NC2=CC=C1)=O)C1=CC2=C(OCO2)C=C1O | C15H10BrNO4
